US07531569B2
c) 2-((E)-2-Ethoxycarbonylvinyl)-4-trifluoromethylbenzoic acid
520 mg of NaNO2 (7.6 mmol) were dissolved in 2 ml of water and added dropwise at 0° C. to a solution of 1.3 g of 2-amino-4-trifluoromethylbenzoic acid (6.5 mmol) in 2.6 ml of a 48% aqueous HBF4 solution and 30 ml of ethanol. The mixture was then stirred at 0° C. for 10 minutes, then warmed to RT. A further 0.3 ml of a 48% aqueous HBF4 solution was then added, then 30 ml of ethanol, 0.9 g of ethyl acrylate (9.0 mmol) and 26.9 mg of Pd (OAc)2 (0.12 mmol). Subsequently, the mixture was stirred at 50-60° C. for 1 h. The solvent was then removed under reduced pressure, and the residue taken up with 25 ml of EA and washed initially with 25 ml of a 1N aqueous HCl solution then with 25 ml of a saturated aqueous NaCl solution. The organic phase was dried over Na2SO4 and the solvent removed under reduced pressure. The residue was suspended in 25 ml of heptane and the precipitated product was filtered off. Yield: 1.3 g (69%) of a pale brownish solid. An analytical sample was purified by crystallization from heptane/ethyl acetate.

reactant | NaNO2 | 7.6 mmol, 520 mg | N(=O)[O-].[Na+]
reactant | 2-amino-4-trifluoromethylbenzoic acid | 6.5 mmol, 1.3 g | NC1=C(C(=O)O)C=CC(=C1)C(F)(F)F | C8H6F3NO2
reactant | HBF4 | [H+].[B-](F)(F)(F)F
reactant | ethyl acrylate | 9.0 mmol, 0.9 g | C(C=C)(=O)OCC | C5H8O2
solvent | water | 2 ml | O | H2O
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 2-((E)-2-Ethoxycarbonylvinyl)-4-trifluoromethylbenzoic acid | C(C)OC(=O)/C=C/C1=C(C(=O)O)C=CC(=C1)C(F)(F)F | C13H11F3O4
